US08304412B2
4-(2-Hydroxyethoxy)cyclohexanecarboxylic acid
1.00 g (5.49 mmol) of 4-(2-hydroxyethoxy)benzoic acid is dissolved in 30 ml of dry THF and 30 ml of dry ethanol, and 1.13 mg (0.55 mmol) of rhodium on alumina are added. The reaction mixture is hydrogenated at +50° C. at a hydrogen pressure of 50 bar for 12 h. The mixture is then hydrogenated at +60° C. at a hydrogen pressure of 80 bar for a further 48 h. After filtration, the filtrate is concentrated on a rotary evaporator. The residue is directly used in the next reaction without further purification.

reactant | 4-(2-hydroxyethoxy)benzoic acid | 5.49 mmol, 1.00 g | OCCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
reactant | hydrogen | [H][H] | H2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | rhodium on alumina | 0.55 mmol, 1.13 mg | [Rh] | Rh
product | 4-(2-Hydroxyethoxy)cyclohexanecarboxylic acid | OCCOC1CCC(CC1)C(=O)O | C9H16O4
